US09388189B2
b) (S)-2-(1-((5-(3-Amino-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (0.53 g, 0.89 mmol) was treated with 3-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (0.52 g, 2.22 mmol), sodium carbonate (0.24 g, 2.22 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.22 g, 0.27 mmol) and 22 ml 1,2-dimethoxyethane and 5 ml water as a solvents according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 0.36 g (62% yield) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.89 mmol, 0.53 g | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 3-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 2.22 mmol, 0.52 g | NC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)O | C12H18BNO3
reactant | sodium carbonate | 2.22 mmol, 0.24 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 22 ml | COCCOC | C4H10O2
solvent | water | 5 ml | O | H2O
product | (S)-2-(1-((5-(3-Amino-5-hydroxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.36 g, 62% yield | NC=1C=C(C=C(C1)O)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H38N8O3Si
